US08049006B2
N-benzyloxycarbonyl-(1R)-1-(1H-tetrazol-5-yl)propylamine (Compound S73)
To N-benzyloxycarbonyl-(1R)-1-cyanopropylamine (85.6 mg) in suspension (3 ml), sodium azide (28 mg) and zinc bromide (88.3 mg) were added and the mixture was stirred under heating and reflux for 24 hours. 3N hydrochloric acid and ethyl acetate were added to the reaction solution and the mixture was stirred until there were no longer any insolubles. The obtained solution was extracted with ethyl acetate, then the organic layer was concentrated. 0.25N sodium hydroxide aqueous solution was added to the residue, the mixture was stirred for 30 minutes, and the insoluble compound was filtered. 6N hydrochloric acid was added to the filtrate to adjust to pH 1, then this was concentrated. The residue was diluted with 1N hydrochloric acid, then the solids were collected by filtration to obtain the title compound (60.4 mg).

reactant | N-benzyloxycarbonyl-(1R)-1-cyanopropylamine | 85.6 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](CC)C#N | C12H14N2O2
reactant | sodium azide | 28 mg | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
catalyst | zinc bromide | 88.3 mg | [Br-].[Zn+2].[Br-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-benzyloxycarbonyl-(1R)-1-(1H-tetrazol-5-yl)propylamine | 60.4 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](CC)C1=NN=NN1 | C12H15N5O2
